US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-2-Carboxyvinyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-((4-(tert-butoxy)-3,3-dimethyl-4-oxobutanoyl)oxy)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylic acid (200 mg, 0.294 mmol) in dichloromethane (6 mL) stirred at room temp was added trifluoroacetic acid (TFA) (3 mL). The reaction mixture was stirred at 20° C. for 1 h. The product was extracted with DCM (15 mL*3) and the residue was purified by preparative-HPLC to give the title compound (85 mg, 39%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=7.05 (d, J=16.1 Hz, 1H), 5.75 (d, J=16.3 Hz, 1H), 4.52 (dd, J=4.8, 11.3 Hz, 1H), 3.32-3.11 (m, 1H), 2.78-2.61 (m, 3H), 2.34-2.12 (m, 3H), 2.06-0.61 (m, 44H); LC/MS: m/z calculated 624.4. Found 625.3 (M+1)+.

reactant | (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-((4-(tert-butoxy)-3,3-dimethyl-4-oxobutanoyl)oxy)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylic acid | 0.294 mmol, 200 mg | C(C)(C)(C)OC(C(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)/C=C/C(=O)O)C)C)(C)C)(C)C)=O | C42H64O7
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-2-Carboxyvinyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 85 mg, 39% | C(=O)(O)/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C | C38H56O7
